US04132731
5-Hydroxyacetamido-N-(2-hydroxypropyl)-2,4,6-triiodoisophthalamic Acid
At temperatures no higher than 10° C., 13.3 ml. of acetoxyacetyl chloride is gradually added dropwise with agitation to a solution of 30.8 g. (50 mmol) of 5-amino-(2-hydroxypropyl)-2,4,6-triiodoisophthalamic acid in 60 ml. of dimethylacetamide. After 16 hours of agitation at room temperature and the addition of 10 ml. of water, the mixture is stirred for 30 minutes at room temperature and then concentrated under vacuum. The residue, after having been treated repeatedly with fresh water, is saponified on a steam bath with agitation with 70 ml. of 2N sodium hydroxide solution in 250 ml. of water. After cooling, the reaction mixture is acidified with 12.5 ml. of concentrated hydrochloric acid, stirred for 16 hours at room temperature, and, after adding approximately the same volume of saturated NaCl solution, allowed to stand for 4 days. Thereafter, the mixture is vacuum-filtered from the thus-separated precipitate, which is washed with minimum portions of water and dried under vacuum. Yield: 17.2 g. (51%), m.p. 275°-277° C., with decomposition.

reactant | acetoxyacetyl chloride | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 5-amino-(2-hydroxypropyl)-2,4,6-triiodoisophthalamic acid | 50 mmol | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C11H11I3N2O4
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 5-Hydroxyacetamido-N-(2-hydroxypropyl)-2,4,6-triiodoisophthalamic Acid | OCC(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C13H13I3N2O6
